US08709613B2
Under an atmospheric argon gas flow, 1,6-dibromopyrene in an amount of 10.3 g (28.6 millimole), 2-naphthylboronic acid in an amount of 11.8 g (68.7 millimole), tetrakis(triphenylphosphine)palladium(0) in an amount of 0.66 g (2% by mole), sodium carbonate aqueous solution in an amount of 43 milliliter (59.4 millimole, 2M), dimethoxyethane (DME) in an amount of 100 milliliter and dried THF in an amount of 70 milliliter were placed into a three-neck flask equipped with a cooling pipe and having a capacity of 200 milliliter, and the resultant solution was stirred with heating at a temperature of 90° C. for 8 hours. After the completion of the reaction, adding 50 milliliter of water, precipitated crystal was separated by filtration and washed with the use of 50 milliliter of water and 100 milliliter of ethanol, and as a result, 13.2 g of 1,6-di(2-naphthyl)pyrene (pale yellow powder) was obtained (the yield: 99%).

reactant | 1,6-dibromopyrene | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)Br | C16H8Br2
reactant | 2-naphthylboronic acid | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethoxyethane | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 milliliter | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1,6-di(2-naphthyl)pyrene | 13.2 g, yield: 99% | C1=C(C=CC2=CC=CC=C12)C1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC4=CC=CC=C4C=C3 | C36H22
